US07795273B2
Step 3.1: 6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carbonyl chloride
6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid (200 mg, 0.57 mmol) are dissolved in 4 ml chloroform and oxalylchloride (97 μl, 1.14 mmol; Fluka) are added. The reaction is refluxed for 3 hours and then volatiles are removed under reduced pressure. The crude product is directly used in the next step.

reactant | 6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.57 mmol, 200 mg | CN(S(=O)(=O)C=1C=CC=2N(C1)N=CC2C(=O)O)C | C10H11N3O4S
reactant | oxalylchloride | 1.14 mmol, 97 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carbonyl chloride | CN(S(=O)(=O)C=1C=CC=2N(C1)N=CC2C(=O)Cl)C | C10H10ClN3O3S
